US09399640B2
Step 6. 4-[4-(2,4-Difluorophenoxy)-7-(1-hydroxyethyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one
A 3.0 M solution of methylmagnesium iodide in diethyl ether (21.1 μL, 0.0634 mmol) was added to a solution of 4-(2,4-difluorophenoxy)-1-methyl-5-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-1H-benzimidazole-7-carbaldehyde (0.0478 g, 0.0845 mmol) in tetrahydrofuran (0.734 mL) at 0° C. The resultant reaction mixture was stirred at 0° C. for 1 h, after which time an additional amount of 3.0 M solution of methylmagnesium iodide in diethyl ether (42.2 μL, 0.127 mmol) was added to the reaction mixture and stirring was continued at 0° C. for 30 min. The reaction mixture was quenched at 0° C. with methanol, diluted with methanol, and purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (25.2 mg, 51%). LCMS calculated for C29H34F2N5O4Si (M+H)+: m/z=582.2. found: 582.2.

reactant | methylmagnesium iodide | C[Mg]I
reactant | diethyl ether | 0.0634 mmol, 21.1 μL | C(C)OCC | C4H10O
reactant | 4-(2,4-difluorophenoxy)-1-methyl-5-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-1H-benzimidazole-7-carbaldehyde | 0.0845 mmol, 0.0478 g | FC1=C(OC2=C(C=C(C=3N(C=NC32)C)C=O)C=3C2=C(C(N(C3)C)=O)N(N=C2)COCC[Si](C)(C)C)C=CC(=C1)F | C28H29F2N5O4Si
reactant | diethyl ether | 0.127 mmol, 42.2 μL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 0.734 mL | O1CCCC1 | C4H8O
product | 4-[4-(2,4-Difluorophenoxy)-7-(1-hydroxyethyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 25.2 mg, 51% | FC1=C(OC2=C(C=C(C=3N(C=NC32)C)C(C)O)C=3C2=C(C(N(C3)C)=O)N(N=C2)COCC[Si](C)(C)C)C=CC(=C1)F | C29H33F2N5O4Si
